US05786523
2-Hydroxy-3,6-di-hydroxycarbonylnaphthalene (11.6 g) was dispersed in anhydrous acetonitrile (116.0 g) and N-methyl-2-pyrrolidone (39.0 g). Then, methyl iodide (7.85 g) was added and 1,8-diazabicyclo[5.4.0]undec-7-ene (hereinafter referred to as "DBU") (8.37 g) was added dropwise over 5 minutes, followed by heating at 50° C. overnight. Further methyl iodide (2.32 g) and DBU (2.42 g) was added and mixture was stirred overnight. The deposited crystal was filtered and then dried under reduced pressure to obtain 7.29 g of a crude crystal of 2-hydroxy-3-hydroxycarbonyl-6-methoxycarbonylnaphthalene. Aliquot of this crystal (1.52 g) was dissolved in ethyl acetate (30.2 g) and an aqueous 5% sodium hydrogencarbonate. The solution was separated into the organic layer and the aqueous layer, and then the organic layer was extracted with an aqueous 5% sodium hydrogencarbonate solution (10.3 g) and aqueous extract was combined with the above aqueous layer. To this aqueous layer was added dropwise 10% hydrochloric acid until the pH becomes 7 while ice-cooling. The deposited crystal was filtered and then dried under reduced pressure to obtain 1.02 g of 2-hydroxy-3-hydroxycarbonyl-6-methoxycarbonylnaphthalene (DSC analysis value: 295.1° C.).

reactant | 2-Hydroxy-3,6-di-hydroxycarbonylnaphthalene | 11.6 g | OC1=CC2=CC=C(C=C2C=C1C(=O)O)C(=O)O | C12H8O5
reactant | methyl iodide | 7.85 g | CI | CH3I
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl iodide | 2.32 g | CI | CH3I
reactant | DBU | 2.42 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 116.0 g | C(C)#N | C2H3N
solvent | N-methyl-2-pyrrolidone | 39.0 g | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 30.2 g | C(C)(=O)OCC | C4H8O2
product | 2-hydroxy-3-hydroxycarbonyl-6-methoxycarbonylnaphthalene | 1.02 g | OC1=CC2=CC=C(C=C2C=C1C(=O)O)C(=O)OC | C13H10O5
